US08334236B2
(1) Production of (2-(methylamino)-3-pyridinyl)methanol
Under a nitrogen gas stream, 14.4 g (0.38 mol) of lithium aluminum hydride was added to tetrahydrofuran (300 mL) under ice cooling, and a tetrahydrofuran (100 mL) solution of crude 2-(methylamino)nicotinic acid was added dropwise to the above mixture. The resulting mixture was stirred overnight at room temperature. Ethyl acetate was added to the reaction mixture, and 152 mL of a 10% aqueous solution of sodium hydroxide was further added thereto. Insoluble materials were filtered off. The filtrate was concentrated, and the residue was purified by column chromatography (ethyl acetate:n-hexane=1:1 to 4:1). Thus, 9.10 g (yield: 35%) of the title compound was obtained as a pale yellow viscous product.

reactant | lithium aluminum hydride | 0.38 mol, 14.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | 2-(methylamino)nicotinic acid | CNC1=C(C(=O)O)C=CC=N1 | C7H8N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-(methylamino)-3-pyridinyl)methanol | 9.10 g, yield: 35% | CNC1=NC=CC=C1CO | C7H10N2O
